US09359359B2
To a solution of ethyl 2-(2-hydroxypropylamino)-2-oxoacetate (2.1 g, 13 mmol) in DCM (30 mL) was added Dess-Martin periodinane (6.2 g, 14.6 mmol) in portions at 0° C. and the resulting mixture was stirred at room temperature for 16 h. The reaction was diluted with DCM and extracted with saturated aqueous sodium bicarbonate solution and brine. The organic layer was dried and concentrated to give crude product, which was purified via silica gel chromatography eluting with DCM/methanol (60:1) to give ethyl 2-oxo-2-(2-oxopropylamino)acetate (1.7 g, 81.2% yield) as yellow syrup. LCMS retention time 0.392 min, LCMS MH+ 174.

reactant | ethyl 2-(2-hydroxypropylamino)-2-oxoacetate | 13 mmol, 2.1 g | OC(CNC(C(=O)OCC)=O)C | C7H13NO4
reactant | Dess-Martin periodinane | 14.6 mmol, 6.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-oxo-2-(2-oxopropylamino)acetate | 1.7 g, 81.2% yield | O=C(C(=O)OCC)NCC(C)=O | C7H11NO4
